US05258407
2-(2,4-di-tert-pentylphenoxy)-5-hydroxybenzoic acid
A solution of 2-(2,4-di-tert-pentylphenoxy)-5-methoxybenzoic acid (10.0 g, 0.026 mol) in 31% HBr/HOAc (100 mL) was heated to reflux for 1 hour. The reaction mixture was cooled to room temperature and added to 500 mL water. The mixture was extracted with ethyl acetate (3×200 mL), and the combined organic extracts repeatedly washed with water to remove traces of acid. The organic extracts were dried over magnesium sulfate and concentrated to give a tan solid. Chromatography on silica gel with 1:1 heptane:ethyl acetate yielded the product in 80% yield. NMR and mass spectral data were consistent with the proposed structure.

reactant | 2-(2,4-di-tert-pentylphenoxy)-5-methoxybenzoic acid | 0.026 mol, 10.0 g | C(C)(C)(CC)C1=C(OC2=C(C(=O)O)C=C(C=C2)OC)C=CC(=C1)C(C)(C)CC | C24H32O4
reactant | water | 500 mL | O | H2O
reactant | heptane | CCCCCCC | C7H16
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HBr HOAc | 100 mL | Br.CC(=O)O
product | 2-(2,4-di-tert-pentylphenoxy)-5-hydroxybenzoic acid | 80% yield | C(C)(C)(CC)C1=C(OC2=C(C(=O)O)C=C(C=C2)O)C=CC(=C1)C(C)(C)CC | C23H30O4
